US07115645B2
b) 2,2-Dimethyl-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide
500 mg of 2,2-dimethyl-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanonitrile was refluxed for 2 hours in 5 ml of 80% sulfuric acid. After cooling, it was carefully added to ice water, the pH was set at 8 with sodium hydroxide solution, it was extracted three times with ethyl acetate, the extracts were dried on sodium sulfate, and it was concentrated by evaporation in a vacuum. The residue was chromatographed on silica gel.

reactant | 2,2-dimethyl-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanonitrile | 500 mg | CC(C#N)(CCCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)C | C27H27N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 2,2-Dimethyl-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide | CC(C(=O)N)(CCCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)C | C27H29N3O2
